US04034106
In a similar manner using 2.36 g. of 3-(β-aminoethylamino)-1-(2-cyanophenoxy)-2-propanol and 2.37 g. of ethyl 4-carbamoylmethoxyphenylacetate as starting materials there is obtained 3-β-(4-carbamoylmethoxyphenylacetamido)ethylamino-1-(2-cyanophenoxy)-2-propanol, isolated as its hydrogen oxalate, m.p. 123°-125° C. after crystallisation from ethyl acetate.

reactant | 3-(β-aminoethylamino)-1-(2-cyanophenoxy)-2-propanol | NCCNCC(COC1=C(C=CC=C1)C#N)O | C12H17N3O2
reactant | ethyl 4-carbamoylmethoxyphenylacetate | C(N)(=O)COC1=CC=C(C=C1)CC(=O)OCC | C12H15NO4
product | 3-β-(4-carbamoylmethoxyphenylacetamido)ethylamino-1-(2-cyanophenoxy)-2-propanol | C(N)(=O)COC1=CC=C(C=C1)CC(=O)NCCNCC(COC1=C(C=CC=C1)C#N)O | C22H26N4O5
